Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
acetaminophen
 
Attending: ___
 
___ Complaint:
left proximal humerus greater tuberosity fracture and bony 
Bankart fracture with persistent pain and instability
 
Major Surgical or Invasive Procedure:
___:  left shoulder ORIF greater tuberosity fracture, open 
bankart and left biceps tenodesis

 
History of Present Illness:
___ male RHD with left proximal humerus greater 
tuberosity fracture and bony Bankart fracture with persistent 
pain and instability, admitted for left shoulder ORIF greater 
tuberosity fracture, open bankart and left biceps tenodesis. 
 
Past Medical History:
Bipolar affective disorder, Hepatitis C, herniated disc, rotator 
cuff repair, anxiety, insomnia, sleep apnea 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Upper Extremity:  
* Aquacel dressings with scant serosanguinous drainage  
* Shoulder/arm full but soft  
* ___ grip strength  
* SILT, NVI distally  
* Fingers warm and well perfused
 
Pertinent Results:
___ 07:20AM BLOOD WBC-18.5* RBC-3.41*# Hgb-10.1*# 
Hct-30.9*# MCV-91 MCH-29.6 MCHC-32.7 RDW-12.8 RDWSD-41.8 Plt 
___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-147* UreaN-11 Creat-0.8 Na-138 
K-4.4 Cl-100 HCO3-24 AnGap-14
___ 07:20AM BLOOD Calcium-8.3* Phos-3.6 Mg-2.3
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

The patient's white count was elevated post-operatively to 18.5. 
 It was recommended that the patient follow-up with his primary 
care physician after discharge from the hospital to have his 
white count rechecked.

Otherwise, pain was controlled with oral and IV pain medications 
on POD#1.  The patient received Aspirin 325 mg every day while 
in house for DVT prophylaxis starting on POD#1.  The patient was 
voiding independently prior to discharge. The surgical dressing 
will remain on until POD#7 after surgery. Labs were checked 
throughout the hospital course and repleted accordingly. At the 
time of discharge the patient was tolerating a regular diet and 
feeling well.  The patient was afebrile with stable vital signs. 
 The patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the dressing was intact. 

The patient's weight-bearing status is NON-weight bearing on the 
operative extremity.  No external rotation x 6 weeks.  Allowed 
to do elbow and wrist range of motion and pendulums.
 
Mr. ___ is discharged to home in stable condition.

 
Medications on Admission:
1. Docusate Sodium 100 mg PO BID 
2. Senna 8.6 mg PO BID 
3. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
3.  Docusate Sodium 100 mg PO BID 
4.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  
5.  Senna 8.6 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left proximal humerus greater tuberosity fracture and bony 
Bankart fracture with persistent pain and instability

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been prescribed narcotic pain medication. You may 
call ___ to refill this medication as needed.  Please 
review our narcotics policy which is attached. Use the 
medication only as prescribed. Take it with food. Please do not 
drive, operate heavy machinery, or drink alcohol while taking 
these medications. As your pain decreases, take fewer tablets 
and increase the time between doses. 

This medication can cause constipation, so you should drink 
plenty of water daily and take a stool softener (such as Colace) 
as needed to prevent this side effect.  Call your surgeons 
office 3 days before you are out of medication so that it can be 
refilled.  These medications cannot be called into your pharmacy 
and must be picked up in the clinic or mailed to your house.  
Please allow an extra 2 days if you would like your medication 
mailed to your home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in two (___) weeks.
 
7. SWELLING: Ice your shoulder joint 20 minutes at a time. Do 
not place ice directly on the skin. 
 
8. ANTICOAGULATION: Please continue your Aspirin 325 mg daily 
with food for four (4) weeks to help prevent deep vein 
thrombosis (blood clots).  
 
9. WOUND CARE: Please remove Aquacel dressing on POD#7 after 
surgery. It is okay to shower after surgery after 5 days but no 
tub baths, swimming, or submerging your incision until after 
your four (4) week checkup. Please place a dry sterile dressing 
on the wound after aqaucel is removed each day if there is 
drainage, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
 
  
10. ACTIVITY: NON-Weight bearing on the operative extremity. You 
MUST wear your sling for 6 weeks. No external rotation x 6 
weeks.  You may come out of your sling to perform elbow and 
wrist exercises and shower, but must replace the sling upon 
completion. You can also do pendulums.
Physical Therapy:
NWB LUE in sling
No external rotation x 6 weeks
Okay to do elbow & wrist ROM and pendulums
Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
 
Followup Instructions:
___